US07371777B2
Ethyl 2-[(3-{[(t-butoxycarbonyl)amino]methyl}-4-methoxyphenyl)(hydroxy)methyl]-2,5-dihydro-2-furancarboxylate
0.057 g of lithium was added to 120 ml of liquid ammonia and 30 ml of tetrahydrofuran at −78° C. under an atmosphere of nitrogen gas. After stirring for 15 minutes, a solution of 0.462 g of ethyl furan-2-carboxylate in 20 ml tetrahydrofuran was added dropwise. After stirring for 30 minutes, 3-methyl-1,3-pentadiene was added drop by drop until the deep blue color faded. A solution of 0.397 g of t-butyl N-(5-formyl-2-methoxybenzyl)carbamate in 15 ml of tetrahydrofuran was added dropwise to the yellow reaction mixture. After stirring at −78° C. for 2 hours, 30 ml of saturated aqueous ammonium chloride was added, and ammonia was evaporated under a flow of nitrogen gas. 200 ml of ethyl acetate and 100 ml of water were added, and the organic layer washed with 100 ml of brine, dried over magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography, to give 0.407 g of the title compound as a white solid.

reactant | lithium | 0.057 g | [Li] | Li
reactant | ammonia | N | H3N
reactant | ethyl furan-2-carboxylate | 0.462 g | O1C(=CC=C1)C(=O)OCC | C7H8O3
reactant | 3-methyl-1,3-pentadiene | CC(C=C)=CC | C6H10
reactant | t-butyl N-(5-formyl-2-methoxybenzyl)carbamate | 0.397 g | C(=O)C=1C=CC(=C(CNC(OC(C)(C)C)=O)C1)OC | C14H19NO4
reactant | ammonium chloride | 30 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | Ethyl 2-[(3-{[(t-butoxycarbonyl)amino]methyl}-4-methoxyphenyl)(hydroxy)methyl]-2,5-dihydro-2-furancarboxylate | 0.407 g | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1OC)C(C1(OCC=C1)C(=O)OCC)O | C21H29NO7
